US05840732
Synthesis of 2-amino-3-(4-chlorobutyloxy)pyridine
To a suspension of 20 g (500 mmol) of 60% oily sodium hydride in 500 ml of dimethyl sulfoxide, 55.06 g (500 mmol) of 2-amino-3-hydroxypyridine was added at room temperature, followed by stirring for 15 minutes. To this mixture, 57.62 ml (500 mmol) of 1-bromo-4-chlorobutane was added, followed by stirring at 80° C. for 3 hours. After cooling, the reaction mixture was poured into water, extracted with ethyl acetate, washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent: n-hexane/ethyl acetate=1/1→1/4→1/9). The resulting crude crystal was purified by recrystallization (solvent: chloroform-diethyl ether) to yield 10.35 g (10.3%, white crystal) of the desired product.

reactant | sodium hydride | 500 mmol, 20 g | [H-].[Na+]
reactant | 2-amino-3-hydroxypyridine | 500 mmol, 55.06 g | NC1=NC=CC=C1O | C5H6N2O
reactant | 1-bromo-4-chlorobutane | 500 mmol, 57.62 ml | BrCCCCCl | C4H8BrCl
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 500 ml | CS(=O)C | C2H6OS
product | 2-amino-3-(4-chlorobutyloxy)pyridine | NC1=NC=CC=C1OCCCCCl | C9H13ClN2O
